US08476297B2
Step 2. Ethyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate
A solution of ethyl 1-(4-(trifluoromethyl)phenyl)isoquinoline-2(1H)-carboxylate (2.0 g, 5.7 mmol) in EtOH (20 mL) was stirred with 10% Pd/C (0.6 g, 5.7 mmol) under a hydrogen atmosphere at RT for 2 h. The reaction mixture was filtered through a celite pad and the filtrate was concentrated in vacuo to provide the title compound as colorless oil. MS (ESI pos. ion) m/z: 350 (M+1).

reactant | ethyl 1-(4-(trifluoromethyl)phenyl)isoquinoline-2(1H)-carboxylate | 5.7 mmol, 2.0 g | FC(C1=CC=C(C=C1)C1N(C=CC2=CC=CC=C12)C(=O)OCC)(F)F | C19H16F3NO2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 5.7 mmol, 0.6 g | [Pd] | Pd
product | Ethyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | FC(C1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)OCC)(F)F | C19H18F3NO2
